US09359338B2
Step 1: Synthesis of phenyl N-[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-2-fluoro-phenyl]carbamate
Mix N-[4-(4-amino-3-fluoro-phenoxy)-2-pyridyl]cyclopropanecarboxamide (500 mg, 1.7 mmol), DCM (8 mL) and pyridine (345 mg) and cool to 0-5° C. Add a solution of phenyl chloroformate (350 mg, 2.2 mmol) in DCM (1 mL). Stir the reaction at room temperature for 1.5 hrs. TLC (EtOAc:PE=1;1) shows the reaction is complete. Quench the reaction with water (5 mL). Wash the organic layer with 1N HCl solution, saturated NaHCO3 solution and brine respectively. Dry the organic layer with anhydrous Na2SO4. Filter and concentrate to give the crude product (710 mg) which is used without further purification. MS: (M+1): 408.

reactant | N-[4-(4-amino-3-fluoro-phenoxy)-2-pyridyl]cyclopropanecarboxamide | 1.7 mmol, 500 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)C2CC2)C=C1)F | C15H14FN3O2
reactant | pyridine | 345 mg | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 2.2 mmol, 350 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | phenyl N-[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-2-fluoro-phenyl]carbamate | 710 mg | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OC1=CC=CC=C1)=O)F | C22H18FN3O4
